US07601722B2
1-(2-chloro-4-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (made analogously as in general procedure I, 0.33 g, 1.1 mmol) was treated with triphenylphosphine (0.36 g, 1.4 mmol), 2-bromo ethanol (0.16 g, 1.4 mmol), and diisopropylazodicarboxylate (0.28 g, 1.4 mmol) to provide 0.30 g of 1-(2-bromoethyl)-3-(2-chloro-4-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide. HRMS: calculated for C14H11BrClFN2O2S, 403.93971; found (EI, M+), 403.9386

reactant | 1-(2-chloro-4-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | ClC1=C(C=CC(=C1)F)N1S(NC2=C1C=CC=C2)(=O)=O | C12H8ClFN2O2S
reactant | triphenylphosphine | 1.4 mmol, 0.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromo ethanol | 1.4 mmol, 0.16 g | BrCCO | C2H5BrO
reactant | diisopropylazodicarboxylate | 1.4 mmol, 0.28 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | 1-(2-bromoethyl)-3-(2-chloro-4-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.30 g | BrCCN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)F)Cl)(=O)=O | C14H11BrClFN2O2S
